US05668128
In substantially the same manner as Working Example 2, piperidine (0.86 g, manufactured by Wako Pure Chemical Industries, Ltd.).was condensed with Boc-L-leucine (2.74 g, manufactured by Peptide Institute, Inc.) to give N-(Boc-L-leucyl)piperidine (3.34 g) as white needles (yield 80%). The Boc group of the product was deprotected by using TFA, and 1.20 g of thus-deprotected compound was condensed, in substantially the same manner as Working Example 2, with (2S,3S)-ethyl hydrogen N-Z-aziridine-2,3-dicarboxylate (Compound 1, 1.93 g) to give the above-titled compound (Compound 23; 1.10 g) as a pale yellow oily product (yield 39%).

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | Boc-L-leucine | 2.74 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
product | N-(Boc-L-leucyl)piperidine | 3.34 g, yield 80% | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)N1CCCCC1 | C16H30N2O3
